data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,4241,"CC[OH+]CC.C[N+:1](C)=[CH:2]Cl.O=P(Cl)(Cl)Cl.OC1=CC=C([CH:3]=[C:4](C2=C(O)C=C(O)C=C2O)[O:5][B-](F)(F)F)C=C1|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,6963,"C[C:1](=[O:2])[CH:3]=[CH:4]C1=CC=CC=C1.O[O-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,251,"C[N:1](C)N.N#CC1=CC=C([CH2:2][Cl:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3737,"CCCC.COC1=CC=C([N+:1](C)([CH:2]2C(O)CC3=C(C(OC)=CC=C3OC)[CH:3]2[H:4])[CH2-:5])C=C1.[Li+]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,5490,"CC=[C+:1]C1=CC=CC=C1.[Br-:2]|(2, 1)"
train,pmechdb_split_0,0,2931,"CO[C:1]([C-:2](C)C(C)=O)=[O:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2643,"C1=CC=CC=C1.CC1=CC=C(S(=O)(=O)[O:1][H:2])C=C1.ClC1=CC(C=[O:3])=CC=C1.OCCO|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4752,"COC1=CC=C([CH2:1][Cl:2])C=C1.C[NH:3]N|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6749,"CC(C)C(=O)C(=CC1=CC=CC=C1)C(=O)NC1=CC=CC=C1.CCO.CC[N+]1=[C-:1]SC(CCO)=C1C.CC[NH+](CC)CC.COC(=O)C(=CC1=CC=CC=C1)C(=O)C(C)C.FC1=CC=C([CH:2]=[O:3])C=C1.OCC[NH+](CCO)CCO.[Br-]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3909,"C1=CC=C(COC2CCC3(CC2)OCC[O:1]3)C=C1.C1CCOC1.CC(=O)[O:2][H:3].O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6980,"CCO[C:1]([CH:2](Cl)[H:3])=[O:4].[NH2-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,8956,"CC(=O)O[I+:1]1(OC(C)=O)OC(=O)C2=C1C=CC=C2.CC(=O)[O-].O=C(NC(CC1=CC=CC=C1)C[OH:2])C1=CC=CC=C1|(2, 1)"
train,pmechdb_split_0,0,2111,"CCC1CC(=[N+:1](O)[H:2])C2=CC=CC=C21.O.[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7858,"CC(C)[N-:1]C(C)C.O=C(CC(=O)[O:2][H:3])CC1=CC=CC=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6074,"CC12CC[C:1](=[OH+:2])CC1CCC2=O.O=C([O-])C(=O)O.OCC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2684,"CC[C:1]1(C)C(C)[OH+:2]1.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5964,"C=C[CH:1]=[O:2].[H:3][BH3-:4]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,9200,"CCOC(=O)C(=O)[CH:1]([H:2])[C:3](C(C)=C(O)C(=O)OCC)=[O:4].CC[O-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4677,"CC(C)O.CC(C)[O][Al:1]([O]C(C)C)[O]C(C)C.CC1(C)OC2CC3C([OH:2])C(=O)CC4(OCCO4)C3(C)CC2O1|(2, 1)"
train,pmechdb_split_0,0,6846,"C[C+:1]1O[C:2](C2C(=O)OC3C(O)COC32O)([H:3])[CH:4]=[CH:5]1.O=S(=O)(O)[O-:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
train,pmechdb_split_0,0,2222,"CN1C(=O)C2=CC=CN2C=C1CCCN1C(=O)C2=C(C=CC=C2)[C:1]1=[O:2].N[NH2:3].O.[Cl-].[K+]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1786,"CC1=CC=C(CC(C2=CC=CC=C2)[O:1][H:2])C=C1.N#C[C-:3](O)C1=CC=CC=C1.O=C(CC1=CC=CC=C1)C1=CC=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7155,"CC1C(C)(C)[O:1]1.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1136,"CC(O)[CH2:1][Br:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3483,"CC[C:1](=[O:2])[Cl+:3][Al-]([Cl])([Cl])[Cl]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9425,"CC(C)(C)[Si](C)(C)[C:1]1([H:2])SCCCS1.C[C:3](C)(C)[Li:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,5457,"C1C2C[CH:1]([Br:2])[CH:3](O2)[CH2:4]1|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,2788,"C[CH:1]=[CH:2][CH:3]=[O:4].O[O-:5]|(5, 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7133,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CCCC1CCC2C3C[CH+:1]C45CC4CCC5(C)C3CCC12C.C[OH:2]|(2, 1)"
train,pmechdb_split_0,0,2394,"BrC[C:1]([CH2:2][H:3])=[O:4].[NH2-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,4777,"COC1=C(O)C2=C(C=C1)CC1C3CC(OC)C(=[O:1])CC23CCN1CC1CCC1.CS(=O)(=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,506,"O.O=C(O)C1=C([C:1](O)([NH2+:2]CC2=CC=CC=C2)[OH:3])C=CC=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7905,"CS(C)=[O:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,102,"CC[NH2:1].CO[C:2](=[O:3])[CH:4]=[CH2:5]|(1, 5);((5, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,4801,"C1=CC=C(C=[O:1])C=C1.CC=CC[B:2]1OC(C)(C)C(C)(C)O1|(1, 2)"
train,pmechdb_split_0,0,347,"CCO[C:1]1(C(F)(F)C(F)(F)F)C(C2CCCCC2)[O+:2]1[Al-]([CH3])([CH3])[CH3]|((1, 2), 2)"
train,pmechdb_split_0,0,2245,"CC12CCC(O)=CC1(C)C(=[C+:1][CH2:2][Si-:3](C)(C)(C)OS(C)(=O)=O)CC2|((3, 2), 1)"
train,pmechdb_split_0,0,2847,"CO.COC1=C([OH:1])C2=C(C=C1)CC1C3CC=C(O)[CH+:2]C23CCN1C1CCCCC1.CS(=O)(=O)O.CS(=O)(=O)[O-]|(1, 2)"
train,pmechdb_split_0,0,4197,"CC(CN=[N+]=[N-])CC(C)[C:1]([CH2:2][H:3])=[O+:4][Li-][N:5](C(C)C)C(C)C|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,8940,"CCOCC.CN(C)C(Cl)O[P:1](Cl)(Cl)(Cl)[Cl:2].FB(F)F.O=C(CC1=CC=C(O)C=C1)C1=C(O)C=C(O)C=C1O|((1, 2), 2)"
train,pmechdb_split_0,0,1540,"C[P+:1](C)(C)[O:2][CH3:3].[Br-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,3415,"CC(=O)CC1C(=O)CCCC1(N)[OH:1].CC(=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9976,"CCC(=O)N[C:1]1=[CH:2]C=CC=C1.C[C+:3]=O|((1, 2), 3)"
train,pmechdb_split_0,0,5288,"C[CH:1]([O:2]C)[I:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1215,"CO[C:1](N)([OH:2])[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2613,"C[C:1](=[CH2:2])[OH:3].[CH2:4]=[OH+:5]|(3, 1);((1, 2), 4);((4, 5), 5)"
